US05886181
Methyl 1-acetyl-1,4,5,6-tetrahydropyrazine-2-carboxylate
15.10 g (192.5 mmol) of acetyl chloride was added dropwise over 25 minutes to 25.00 g (175.9 mmol) of methyl 1,4,5,6-tetrahydropyrazine-2-carboxylate, 250 ml of tetrahydrofuran and 21.30 g (210.5 mmol) of triethylamine at 0° C. The mixture was then heated to room temperature and, after 1 hour, 200 ml of ethyl acetate were added. The aqueous phase was washed a further 3 to 4 times with a total of 500 ml of ethyl acetate and the combined organic extracts were dried over magnesium sulfate. After the solvent had been stripped off, 22.30 g (69%) of the title compound were obtained as a yellow oil. Recrystallization from ethyl acetate gave methyl 1-acetyl-1,4,5,6-tetrahydropyrazine-2-carboxylate in the form of a light yellow, crystalline solid. The melting point of the title compound was: 136° to 139° C. Other data concerning the title compound was:

reactant | acetyl chloride | 192.5 mmol, 15.10 g | C(C)(=O)Cl | C2H3ClO
reactant | methyl 1,4,5,6-tetrahydropyrazine-2-carboxylate | 175.9 mmol | N1C(=CNCC1)C(=O)OC | C6H10N2O2
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 210.5 mmol, 21.30 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 1-acetyl-1,4,5,6-tetrahydropyrazine-2-carboxylate | 22.30 g, 69% | C(C)(=O)N1C(=CNCC1)C(=O)OC | C8H12N2O3
